US07598391B2
2-{2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-3-methyl-butyric acid
Prepared as described in general procedure (H) using 1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea, dithioerythritol and ethyl-2-bromoisovalerate.

reactant | 1-cyclohexyl-1-(trans-4-methyl-cyclohexyl)-3-(5-thiocyanato-thiazol-2-yl)-urea | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)SC#N)[C@@H]1CC[C@H](CC1)C | C18H26N4OS2
reactant | dithioerythritol | SC[C@H](O)[C@H](O)CS | C4H10O2S2
reactant | ethyl-2-bromoisovalerate | C(C)OC(C(C(C)C)Br)=O | C7H13BrO2
product | 2-{2-[3-Cyclohexyl-3-(trans-4-methyl-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-3-methyl-butyric acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SC(C(=O)O)C(C)C)=O)[C@@H]1CC[C@H](CC1)C | C22H35N3O3S2
